* extracted by klt extract --deck sky130

* cell bias_core_pnp8_leg
* pin ec
* pin vss
* pin vsubs
.SUBCKT bias_core_pnp8_leg ec vss vsubs
* device instance $1 r0 *1 6.32,1.7 pnp
Q$1 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $2 r0 *1 10.94,5.5 pnp
Q$2 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $3 r0 *1 10.94,1.7 pnp
Q$3 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $4 r0 *1 6.32,5.5 pnp
Q$4 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $5 r0 *1 1.7,1.7 pnp
Q$5 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $6 r0 *1 15.56,5.5 pnp
Q$6 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $7 r0 *1 15.56,1.7 pnp
Q$7 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $8 r0 *1 1.7,5.5 pnp
Q$8 vsubs vss ec pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
.ENDS bias_core_pnp8_leg
